US05182263
4-Bromophenylacetonitrile (30.0 g, 0.15 mol), sodium azide (10.9 g, 0.17 mol) and ammonium chloride (8.9 g, 0.17 mol) were heated in DMF (300 mL) at 90° C. for 2 days. After concentration, water (200 mL) was added to the residue, the mixture was basified with 1M NaOH (170 mL) and washed with ether (2×100 mL). Acidification of the aqueous layer with 1N HCl and collection of the precipitate by suction filtration produced the crude product. This was purified by recrystallization from ethanol to provide 5-[(4-bromophenyl)methyl]-2H-tetrazole (17.2 g, 0.07 mol) in 44% yield, mp. 173°-175° C.

reactant | 4-Bromophenylacetonitrile | 0.15 mol, 30.0 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | sodium azide | 0.17 mol, 10.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.17 mol, 8.9 g | [Cl-].[NH4+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 5-[(4-bromophenyl)methyl]-2H-tetrazole | 0.07 mol, 17.2 g, 44% yield | BrC1=CC=C(C=C1)CC=1N=NNN1 | C8H7BrN4
